US07893056B2
[(2R)-3-(2-{2-Chloro-5-fluoro-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.3031 g, 0.5461 mmol) was dissolved in acetic acid (8 mL) and water (2 mL). This reaction mixture was stirred overnight. The volatiles were evaporated and reaction mixture was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide as a white solid (0.1484 g, 58%). LCMS: (M+H)+=472.0.

reactant | [(2R)-3-(2-{2-Chloro-5-fluoro-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.5461 mmol, 0.3031 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)NCC=1SC=CN1 | C23H31ClFN7O4S
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 0.1484 g, 58% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)NCC=1SC=CN1 | C18H23ClFN7O3S
